US08058300B2
Step 4: 1-[4′-(4-{1-[3-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-ethoxycarbonylamino}-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 1, Step 6 using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-[3-(tert-butyl-dimethyl-silanyloxy)-phenyl]-ethyl ester and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-[3-(tert-butyl-dimethyl-silanyloxy)-phenyl]-ethyl ester | C(C)(C)(C)[Si](OC=1C=C(C=CC1)C(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O)(C)C | C25H31BrN2O4Si
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-[4′-(4-{1-[3-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-ethoxycarbonylamino}-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OC(C)C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C | C37H44N2O6Si
